US08003806B2
(c) Methyl 3-(1,1′-biphenyl)-4-yl-3-(5-nitro-1H-benzimidazol-1-yl)propanoate
To a solution of methyl 3-(2-amino-4-nitroanilino)-3-(1,1′-biphenyl)-4-ylpropanoate (60 mg, 153 μmol) in 2-ethoxyethanol (1 mL) was added formamidine acetate (48 mg, 461 μmol). The solution was heated to reflux for 6 hours, then cooled to room temperature, and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with dichloromethane, to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=6.11 min, MH+ 402].

reactant | methyl 3-(2-amino-4-nitroanilino)-3-(1,1′-biphenyl)-4-ylpropanoate | 153 μmol, 60 mg | NC1=C(NC(CC(=O)OC)C2=CC=C(C=C2)C2=CC=CC=C2)C=CC(=C1)[N+](=O)[O-] | C22H21N3O4
reactant | formamidine acetate | 461 μmol, 48 mg | C(C)(=O)O.C(=N)N
solvent | 2-ethoxyethanol | 1 mL | C(C)OCCO | C4H10O2
product | Methyl 3-(1,1′-biphenyl)-4-yl-3-(5-nitro-1H-benzimidazol-1-yl)propanoate | C1(=CC=C(C=C1)C(CC(=O)OC)N1C=NC2=C1C=CC(=C2)[N+](=O)[O-])C2=CC=CC=C2 | C23H19N3O4
